US04192945
(D) 1-(3-Mercapto-2-methylpropanoyl)-L-proline (RS,S).
To a solution of (4RS-9aS)-hexahydro-4-methyl-1H,5H-pyrrolo[2,1-c][1,4]thiazepine-1,5-dione (2 g) in dimethylformamide (100 ml), normal sodium hydroxide (20 ml) is added. The mixture is stirred for four hours at room temperature under argon. The solvent is removed in vacuo, the residue is dissolved in ethyl acetate and washed with 10% potassium bisulfate and water. The organic layer is dried and concentrated to yield the title compound.

reactant | (4RS-9aS)-hexahydro-4-methyl-1H,5H-pyrrolo[2,1-c][1,4]thiazepine-1,5-dione | 2 g | CC1C(N2[C@H](C(SC1)=O)CCC2)=O | C9H13NO2S
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | sodium hydroxide | 20 ml | [OH-].[Na+]
product | 1-(3-Mercapto-2-methylpropanoyl)-L-proline | SCC(C(=O)N1[C@H](C(=O)O)CCC1)C | C9H15NO3S
